US07910592B2
Step A: 2-(Bromomethyl)-3-methoxypyrazine
2-methoxy-3-methylpyrazine (0.943 mL, 8.06 mmol), N-bromosuccinimide (1.505 g, 8.46 mmol) and 2,2′-azobis(2-methylpropionitrile) (0.132 g, 0.806 mmol) were heated at reflux in CCl4 (65.5 mL) (oil bath=100° C.) for 2.5 h. LCMS indicated formation of the product. The crude mixture was cooled, filtered and purified by flash chromatography (SiO2, Biotage 40M cartridge). The column was eluted with a CH2Cl2/hexanes mixture (0% to 100%). Related fractions were pooled and co-evaporated with toluene to afford a toluene solution (30 mL) of the product. To be used as it was for next step.

reactant | 2-methoxy-3-methylpyrazine | 8.06 mmol, 0.943 mL | COC1=NC=CN=C1C | C6H8N2O
reactant | N-bromosuccinimide | 8.46 mmol, 1.505 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.806 mmol, 0.132 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 65.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-3-methoxypyrazine | BrCC1=NC=CN=C1OC | C6H7BrN2O
